US07064116B2
3-Trimethylsilyl 1-methoxy-1-[3α-(t-butyldiphenylsilyloxy)-5α-androstan-17β-yl]-2-propyne
To a solution of trimethylsilylacetylene (0.066 mL, 0.48 mmol) in anhydrous THF (2 mL) at 0° C. was added a solution of n-BuLi (0.3 mL, 0.48 mmol) 1.6 M in hexanes and the resulting mixture was stirred for 2 h. Subsequently, the mixture was cooled to −78° C. and a solution of 3α-(t-butyldiphenylsilyloxy)-5α-androstan-17β-carboxaldehyde (90 mg, 0.16 mmol) in THF (2 mL) was added and the mixture was stirred at this temperature for 3 h after which iodomethane (0.1 mL, 1.6 mmol) was added and the resulting mixture was stirred at RT for 24 h. Quenching of the reaction by the addition of NH4Cl was followed by extraction with ethyl acetate. The organic layer was washed with water, brine, dried with (Na2SO4) and the solvent was evaporated in vacuo. Subsequent purification of the residue with flash column chromatography using petroleum ether/ethyl acetate 95/5 as eluent afforded the desired compound named above. Separation of the two epimers was accomplished with preparative thin layer chromatography using petroleum etherlacetone 98/2 as eluent.

reactant | trimethylsilylacetylene | 0.48 mmol, 0.066 mL | C[Si](C)(C)C#C | C5H10Si
reactant | n-BuLi | 0.48 mmol, 1.6 M, 0.3 mL | [Li]CCCC
reactant | 3α-(t-butyldiphenylsilyloxy)-5α-androstan-17β-carboxaldehyde | 0.16 mmol, 90 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C=O | C36H50O2Si
reactant | iodomethane | 1.6 mmol, 0.1 mL | IC | CH3I
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-Trimethylsilyl 1-methoxy-1-[3α-(t-butyldiphenylsilyloxy)-5α-androstan-17β-yl]-2-propyne | C[Si](C#CC([C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](CC[C@]3(C)[C@H]1CC2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)OC)(C)C | C42H62O2Si2
